US06576632B1
1-Methylamino-2-benzylcyclohexane:
To a solution of 1-amino-2-benzylcyclohexane (an intermediate in preparation I, 0.90 gm, 4.8 mmol) and methanol (25 mL) was added RhH(Ph3P)3 (275 mg, 0.24 mmol) and the reaction mixture heated to reflux for 12 h. After cooling to room temperature, the solvent was removed under vacuum and the residue chromatographed on neutral alumina with ether and then on silica gel with triethylamine/ethyl acetate/hexane to give the title compound isolated as an oil in 14% yield.

reactant | 1-amino-2-benzylcyclohexane | NC1C(CCCC1)CC1=CC=CC=C1 | C13H19N
reactant | methanol | 25 mL | CO | CH4O
product | 1-Methylamino-2-benzylcyclohexane | 14% yield | CNC1C(CCCC1)CC1=CC=CC=C1 | C14H21N
